US09371320B2
G) tert-butyl 3,3-difluoro-4-(4-(((trifluoromethyl)sulfonyl)oxy)phenyl)piperidine-1-carboxylate
To a mixture of tert-butyl 3,3-difluoro-4-(4-hydroxyphenyl)piperidine-1-carboxylate (540 mg) and DIEA (890 mg) in dichloromethane (10 mL) was added trifluoromethanesulfonic anhydride (973 mg) under ice-cooling. The reaction mixture was stirred for 2 hr under ice-cooling, and diluted with dichloromethane. The organic layer was washed with water, dried over anhydrous sodium sulfate, and concentrated under reduced pressure. The residue was purified by silica gel chromatography (ethyl acetate/petroleum ether) to give the title compound (486 mg).

reactant | tert-butyl 3,3-difluoro-4-(4-hydroxyphenyl)piperidine-1-carboxylate | 540 mg | FC1(CN(CCC1C1=CC=C(C=C1)O)C(=O)OC(C)(C)C)F | C16H21F2NO3
reactant | DIEA | 890 mg | CCN(C(C)C)C(C)C | C8H19N
reactant | trifluoromethanesulfonic anhydride | 973 mg | FC(S(=O)(=O)OS(=O)(=O)C(F)(F)F)(F)F | C2F6O5S2
solvent | dichloromethane | 10 mL | ClCCl | CH2Cl2
product | tert-butyl 3,3-difluoro-4-(4-(((trifluoromethyl)sulfonyl)oxy)phenyl)piperidine-1-carboxylate | 486 mg | FC1(CN(CCC1C1=CC=C(C=C1)OS(=O)(=O)C(F)(F)F)C(=O)OC(C)(C)C)F | C17H20F5NO5S
